US06008213
d) 3-Methoxy-5H-dibenzo[a,d]cycloheptene-10(11H)-one
Finely powdered 2-benzyl-4-methoxyphenylacetic acid (3.26 g, 12.72 mmol) was added to well-stirred polyphosphoric acid (165 g) at 100-110° C. After 15 min, the reaction was poured onto ice (330 g). Et2O (330 mL) was added, and the mixture was stirred briskly for 15 min. The layers were separated, and the aqueous layer was extracted with Et2O (330 mL). The combined organic layers were washed with 5% NaHCO3 (2×80 mL) then with brine (80 mL), dried (MgSO4), and concentrated. The residue was reconcentrated from toluene, then was chromatographed (silica gel, 20% EtOAc/hexanes). The title compound was obtained as a yellow solid (1.44 g, 48%): TLC Rf (20% EtOAc/hexanes) 0.46; 1H NMR (250 MHz, CDCl3) δ 8.07-8.15 (m, 1H), 7.39-7.49 (m, 1H), 7.25-7.48 (m, 2H), 7.19 (d, J=8.3 Hz, 1H), 6.86 (d, J=2.6 Hz, 1H), 6.71 (dd, J=8.3, 2.6 Hz, 1H), 4.21 (s, 2H), 4.11 (s, 2H), 3.77 (s, 3H); FTIR (CCl4) 1680, 1501, 1282, 1270 cm-1 ; MS (ES) m/e 261 (M+Na)+, 256.0 (M+NH4)+, 239.0 (M+H)+.

reactant | 2-benzyl-4-methoxyphenylacetic acid | 12.72 mmol, 3.26 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)OC)CC(=O)O | C16H16O3
solvent | Et2O | 330 mL | CCOCC | C4H10O
product | 3-Methoxy-5H-dibenzo[a,d]cycloheptene-10(11H)-one | COC=1C=CC2=C(CC3=C(C(C2)=O)C=CC=C3)C1 | C16H14O2
